US07230019B2
Acetylpyrazine (244 mg, 2.0 mmol) was suspended in glacial acetic acid (10 mL) and treated with pyridinium tribromide (640 mg, 2.0 mmol). The reaction mixture was stirred overnight. The solvent was removed under reduced pressure and the residue was purified by silica gel chromatography, eluting with 1:1 hexane/ethyl acetate, to provide 2-(2-bromoacetyl)pyrazine as a brown solid (154 mg, 38%). 1H NMR (200 MHz, DMSO-d6) δ 9.16 (d, J=1.5 Hz, 1H), 8.94 (d, J=2.4 Hz, 1H), 8.82 (dd, J=1.5, 2.4 Hz, 1H), 4.99 (s, 2H).

reactant | Acetylpyrazine | 2.0 mmol, 244 mg | C(C)(=O)C1=NC=CN=C1 | C6H6N2O
reactant | pyridinium tribromide | 2.0 mmol, 640 mg | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(2-bromoacetyl)pyrazine | 154 mg, 38% | BrCC(=O)C1=NC=CN=C1 | C6H5BrN2O
